US07241887B2
3-(4-Methoxy-benzyl)-3-aza-bicyclo[3.2.1]octan-8-one
8,8-Dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]octane (4.88 g, 0.0167 mol) was dissolved in 1N HCl (50 mL) then heated to reflux 2 h (or until judged complete by TLC). The reaction was cooled to room temperature, washed with ether (1×50 mL), then the aqueous layer was made alkaline with 1 N NaOH and saturated aqueous NaHCO3 solution. The product was extracted with EtOAc (4×70 mL) then CH2Cl2 (1×50 mL), washed with saturated aqueous NaCl solution (200 mL), dried over Na2SO4, filtered then concentrated to yellow oil (3.88 g, 94%). (TLC 50% EtOAc/hexanes Rf 0.55); 1H NMR (400 MHz, CDCl3) δ 7.22 (d, J=8.3 Hz, 2H), 6.83 (d, J=8.3 Hz, 2H), 3.77 (s, 3H), 3.49 (s, 2H), 2.92 (dd, J=11.4, 3.9 Hz, 2H), 2.46 (d, J=10.8 Hz, 2H), 2.12 (br s, 2H), 2.00 (dd, J=12.7, 4.6 Hz, 2H), 1.83 (m, 2H); GCMS m/z 245 (M)+.

reactant | 8,8-Dimethoxy-3-(4-methoxy-benzyl)-3-aza-bicyclo[3.2.1]octane | 0.0167 mol, 4.88 g | COC1(C2CN(CC1CC2)CC2=CC=C(C=C2)OC)OC | C17H25NO3
solvent | HCl | 1N, 50 mL | Cl | ClH
product | 3-(4-Methoxy-benzyl)-3-aza-bicyclo[3.2.1]octan-8-one | COC1=CC=C(CN2CC3CCC(C2)C3=O)C=C1 | C15H19NO2
